US04859691
A solution containing 5-chloro-3-bromomethyl-1,2-benzisoxazole (2.5 g, 0.010 mole) and 1-dimethylcarbamoyl-4-methyl-imidazole (1.84 g, 0.012 mole) in anhydrous acetonitrile (25 mL) is stirred at reflux for 72 hours. The solution is cooled to 5° C. (ice-bath) and ammonia gas is bubbled through the solution for 5 minutes after which the solution is allowed to stand at ambient temperature for 1 hour. The solvent is evaporated and the residue is taken up in methylene chloride (25 mL). This solution is washed with water (2×20 mL), dried over anhydrous sodium sulphate, filtered and evaporated to give 5-chloro-3-[(5-methyl-1H-imidazol-1-yl)-methyl]-1,2-benzisoxazole as an oil. A solution of this product in acetone is treated with a slight excess of ethereal hydrogen chloride to afford the hydrochloride salt, m.p. 245°-247° C.

reactant | 5-chloro-3-bromomethyl-1,2-benzisoxazole | 0.010 mole, 2.5 g | ClC=1C=CC2=C(C(=NO2)CBr)C1 | C8H5BrClNO
reactant | 1-dimethylcarbamoyl-4-methyl-imidazole | 0.012 mole, 1.84 g | CN(C(=O)N1C=NC(=C1)C)C | C7H11N3O
reactant | ammonia | N | H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 5-chloro-3-[(5-methyl-1H-imidazol-1-yl)-methyl]-1,2-benzisoxazole | ClC=1C=CC2=C(C(=NO2)CN2C=NC=C2C)C1 | C12H10ClN3O
